US07091214B2
The method described in Part J of Example 365 was used to oxidize and aminate 7-bromo-1-cylcohexylmethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline (7.58 g, 22.0 mmol). 3-Chloroperoxybenzoic acid (9.1 g of 50% pure material, 26.4 mmol) was added in five portions during the oxidation step, and the amination with ammonium hydroxide (55 mL) and p-toluenesulfonyl chloride (6.3 g, 33 mmol) proceeded overnight. The crude product was obtained as an oil, which was treated with acetonitrile to form a precipitate. The precipitate was isolated by filtration and washed with a small amount of acetonitrile. A portion of the brown solid was purified by flash column chromatography on silica gel (eluting with chloroform:CMA in a gradient from 95:5 to 85:15) to provide 7-bromo-1-cylcohexylmethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine as a brown solid, mp 215–216° C.

reactant | 7-bromo-1-cylcohexylmethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinoline | 22.0 mmol, 7.58 g | BrC=1C=CC=2C3=C(C=NC2C1)N=C(N3CC3CCCCC3)COCC | C20H24BrN3O
reactant | 3-Chloroperoxybenzoic acid | 26.4 mmol, 9.1 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | ammonium hydroxide | 55 mL | [OH-].[NH4+]
reactant | p-toluenesulfonyl chloride | 33 mmol, 6.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-bromo-1-cylcohexylmethyl-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-4-amine | BrC=1C=CC=2C3=C(C(=NC2C1)N)N=C(N3CC3CCCCC3)COCC | C20H25BrN4O
